US08026260B2
A solution of 4-nitro-1-phenyl-1H-pyrazol-3-amine (0.05 g, 0.25 mmol) in DMF (0.75 mL) was treated with sodium hydride (6 mg (60% in mineral oil), 0.27 mmol). In a separate flask 6-[4-(tert-butoxycarbonyl)piperazin-1-yl]nicotinic acid (0.075 g, 0.25 mmol) in DMF (0.75 mL) was treated with (1H-1,2,3-benzotriazol-1-yloxy)(triisopropyl)phosphonium hexafluorophosphate (0.16 g, 0.37 mmol) and this was stirred at ambient temperature for 1 hour. The acid/BOP solution was then transferred to the nitropyrazole/sodium hydride solution and the resulting reaction mixture was stirred at ambient temperature for 16 hours. The reaction was loaded directly onto a silica cartridge and purified by flash chromatography (20-30% ethyl acetate/hexanes) to give tert-butyl 4-(5-{[(4-nitro-1-phenyl-1H-pyrazol-3-yl)amino]carbonyl}pyridin-2-yl)piperazine-1-carboxylate as a yellow oil. ESIMS calcd 494.2 (M++H), found 494.1 (M++H).

reactant | 4-nitro-1-phenyl-1H-pyrazol-3-amine | 0.25 mmol, 0.05 g | [N+](=O)([O-])C=1C(=NN(C1)C1=CC=CC=C1)N | C9H8N4O2
reactant | sodium hydride | 0.27 mmol, 6 mg | [H-].[Na+]
reactant | 6-[4-(tert-butoxycarbonyl)piperazin-1-yl]nicotinic acid | 0.25 mmol, 0.075 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C(=O)O)C=C1 | C15H21N3O4
reactant | (1H-1,2,3-benzotriazol-1-yloxy)(triisopropyl)phosphonium hexafluorophosphate | 0.37 mmol, 0.16 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](C(C)C)(C(C)C)C(C)C
reactant | BOP | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | nitropyrazole sodium hydride | [N+](=O)([O-])C1=NNC=C1.[H-].[Na+]
solvent | DMF | 0.75 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.75 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-(5-{[(4-nitro-1-phenyl-1H-pyrazol-3-yl)amino]carbonyl}pyridin-2-yl)piperazine-1-carboxylate | [N+](=O)([O-])C=1C(=NN(C1)C1=CC=CC=C1)NC(=O)C=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C24H27N7O5
